US03992529
10.4 g (20 mmoles) of Z-Glu(OBut)-OH.
DCHA were stirred into 100 ml of ether and 20 ml of IN H2SO4 at 0° C. The ether phase wasdried with sodium sulfate and concentrated. The residue was dissolved in 50ml of dimethylformamide. This solution was combined with 5.91 g (20 mmoles)of HCl.H-Glu(OBut)-OBut, 2.7 g (20 mmoles) of HOBt, 2.6 ml of N-ethylmorpholine and, at 0° C, 4.4 g of DCC (as a solution in dimethylformamide). The whole was stirred for 1 hour 0° C, for 2 hours at room temperature and allowed to stand overnight at room temperature. The next day, the precipitate was filtered off with suction and the filtrate was concentrated. The residue was dissolved in ethyl acetate and the solution was washed successively with NaHCO3 solution, KHSO4 solution, NaHCO3 solution and water, dried over sodium sulfate and concentrated. The residue was chromatographed in ethyl acetate over about 30 g of basic Al2O3 (Woelm, activity degree I). The eluate was concentrated and dried in a high vacuum. Yield: 10 g ofoil (86 %). After some time, the oil crystallized; melting point 88°C.

reactant | DCHA | C1CCC(CC1)NC2CCCCC2 | C12H23N
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 20 mmoles, 5.91 g | Cl | ClH
reactant | H-Glu(OBut)-OBut | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C13H25NO4
reactant | HOBt | 20 mmoles, 2.7 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-ethylmorpholine | 2.6 ml | C(C)N1CCOCC1 | C6H13NO
reactant | DCC | 4.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | Z-Glu(OBut)-OH | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H23NO6
